US04001419
A suspension of 3-chloro-5-methoxyxanthone (5 g.) in dimethylformamide is added to a solution of excess sodium thiomethoxide in dimethylformamide (prepared from methyl mercaptan and sodium hydride). After 1 hour the reaction mixture is poured into water and extracted with ether, giving on evaporation 5-methoxy-3-(methylthio)xanthone, m.p. 201°-203° C. on recrystallisation from methanol.

reactant | 3-chloro-5-methoxyxanthone | 5 g | ClC=1C=CC=2C(C3=CC=CC(=C3OC2C1)OC)=O | C14H9ClO3
reactant | sodium thiomethoxide | C[S-].[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-methoxy-3-(methylthio)xanthone | COC1=C2OC=3C=C(C=CC3C(C2=CC=C1)=O)SC | C15H12O3S
